US04918074
A mixture of 0.34 g of 5-amino-1,2,3-triazole and 1.0 g of isopropyl α-acetyl-2-fluorocinnamate in 10 ml of acetonitrile is refluxed under heating for 4 hours. The solvent is distilled off under reduced pressure and the residue is crystallized from a mixture of diisopropyl ether and dichloromethane. The resulting crystals are recrystallized from a mixture of methanol, diisopropyl ether and hexane to give 0.3 g of 7-(2-fluorophenyl)-6-isopropoxycarbonyl-5-methyl-4,7-dihydro-1,2,3-triazolo[1,5-a]pyrimidine, melting at 137°-139° C., as colorless crystals.

reactant | 5-amino-1,2,3-triazole | 0.34 g | NC1=CN=NN1 | C2H4N4
reactant | isopropyl α-acetyl-2-fluorocinnamate | 1.0 g | C(C)(=O)C(C(=O)OC(C)C)=CC1=C(C=CC=C1)F | C14H15FO3
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 7-(2-fluorophenyl)-6-isopropoxycarbonyl-5-methyl-4,7-dihydro-1,2,3-triazolo[1,5-a]pyrimidine | 0.3 g | FC1=C(C=CC=C1)C1C(=C(NC=2N1N=NC2)C)C(=O)OC(C)C | C16H17FN4O2
